US07700637B2
A solution of the title B compound, 4-[2-(4-fluoro-phenyl)-ethylcarbamoyl]-benzene-sulfonyl chloride (171 mg, 0.5 mmol) in THF (2 mL) is added dropwise over 10 min to a solution of the anthranilic acid (68.6 mg, 0.5 mmol) in water (1 mL) containing sodium bicarbonate (126 mg, 1.5 mmol). After stirring for 30 min, the solvent is evaporated under a stream of nitrogen, and water (8 mL) is added. The mixture is stirred for a few min, then filtered. The filtrate is added dropwise to an excess of 1 N aqueous HCl to precipitate a light tan solid. The solid is collected by filtration, washed with water, and dried under vacuum to give 2-{4-[2-(4-fluoro-phenyl)-ethylcarbamoyl]-benzenesulfonylamino}-benzoic acid: m.p. 85-86° C.; ESI-MS 441 [M−1]−.

reactant | 4-[2-(4-fluoro-phenyl)-ethylcarbamoyl]-benzene-sulfonyl chloride | 0.5 mmol, 171 mg | FC1=CC=C(C=C1)CCNC(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C15H13ClFNO3S
reactant | anthranilic acid | 0.5 mmol, 68.6 mg | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | sodium bicarbonate | 1.5 mmol, 126 mg | C([O-])(O)=O.[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 2-{4-[2-(4-fluoro-phenyl)-ethylcarbamoyl]-benzenesulfonylamino}-benzoic acid | FC1=CC=C(C=C1)CCNC(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)O)C=CC=C1 | C22H19FN2O5S
